US08809267B2
A three necked round bottom equipped with a reflux condenser was charged with chlorosulfonyl isocyanate (5.25 ml, 0.06 mol) and cooled to 0° C. Formic acid (2.25 mL, 0.06 mol) was added dropwise with rapid stirring with rapid gas evolution observed. Upon complete addition of formic acid, the reaction was let warm to room temperature. After 2 h, the resultant reaction vessel containing the solid sulfamoyl chloride was cooled to 0° C. and phenol (1.88 g, 0.02 mol) dissolved in NMP (25 mL) was added dropwise via an addition funnel. The reaction was let warm to room temperature. After 3 h stirring, the reaction mixture was poured into cold saturated aqueous NaCl (120 mL) and extracted with EtOAc. After removal of the separated organic solvent, the crude product was purified by column chromatography on silica (35% EtOAc/hexane) to provide sulfamic acid phenyl ester (2.8 g, 81%): LCMS found 173.9 [M+H]+.

reactant | chlorosulfonyl isocyanate | 0.06 mol, 5.25 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | phenol | 0.02 mol, 1.88 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaCl | 120 mL | [Na+].[Cl-]
solvent | NMP | 25 mL | CN1CCCC1=O | C5H9NO
solvent | formic acid | C(=O)O | CH2O2
solvent | Formic acid | 0.06 mol, 2.25 mL | C(=O)O | CH2O2
product | sulfamic acid phenyl ester | 2.8 g, 81% | C1(=CC=CC=C1)OS(N)(=O)=O | C6H7NO3S
